US07973040B2
Step 4: methyl (4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate hydrochloride
A solution (0.62 M) of 1-tert-butyl 2-methyl (2S,4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate in CH2Cl2 was treated with a solution (4 M) of HCl in dioxane (5 eq). The mixture was stirred at 20° C. for 2 h, then treated with a solution (4 M) of HCl in dioxane (2 eq). After 5 h, the reaction was judged complete and the mixture was concentrated under reduced pressure. The residue was triturated with Et2O to give the title compound (95%) as a solid. MS (ES+) m/z 338 (M+H)+

reactant | 1-tert-butyl 2-methyl (2S,4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate | 0.62 M | ClC=1C(=NC2=CC(=CC=C2N1)OC)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C20H24ClN3O6
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 5 eq | O1CCOCC1 | C4H8O2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl (4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate hydrochloride | 95% | Cl.ClC=1C(=NC2=CC(=CC=C2N1)OC)O[C@@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C15H16ClN3O4.ClH/c1-21-8-3-4-10-11(5-8)19-14(13(16)18-10)23-9-6-12(17-7-9)15(20)22-2;/h3-5,9,12,17H,6-7H2,1-2H3;1H/t9-,12+;/m1./s1
